US04032519
N,N'-Dihydroxy 3,3,4,4-tetramethyl-1,2-diazetidine.
A solution of N,N'-dihydroxy 2,3-dimethyl-2,3-diaminobutane I (6 g.) in water (500 ml.) was added dropwise, over a period of 2 hours, to a suspension of manganese dioxide (45 g.) in water (150 ml.) at 75°-80° C. The reaction mixture was further stirred at 75°-80° for 6 hours and refluxed for 2 hours. The reaction mixture was cooled to room temperature and filtered. The filtrate was saturated with solid ammonium chloride and extracted with chloroform. Removal of the solvent from the dried extract furnished the product, as white crystals (3.6 g., 60%), which was further purified by sublimation.

reactant | N,N'-dihydroxy 2,3-dimethyl-2,3-diaminobutane | ONC(C)(C(C)(NO)C)C | C6H16N2O2
solvent | water | 500 ml | O | H2O
solvent | water | 150 ml | O | H2O
catalyst | manganese dioxide | 45 g | [O-2].[O-2].[Mn+4]
product | N,N'-Dihydroxy 3,3,4,4-tetramethyl-1,2-diazetidine | ON1N(C(C1(C)C)(C)C)O | C6H14N2O2
